US08198311B2
1-(3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2,2,3-trimethylbutyl)-3-(thiazol-2-yl)urea
A mixture of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,3-trimethylbutan-1-amine (10 mg, 0.031 mmol), phenyl thiazol-2-ylcarbamate (15 mg, 0.068 mmol), diisopropylethylamine (0.1 mL), and anhydrous acetonitrile (0.1 mL) was stirred under nitrogen at 80° C. till the reaction completed (ca 30 min) The mixture was dissolved in methanol and TFA. Purification using reverse phase HPLC (YMC S5 20×100 mm, 10 min. run, solvent A: 10% MeOH: 90% H2O: 0.1% TFA, solvent B: 90% MeOH, 10% H2O, 0.1% TFA) gave the title compound (4 mg, 0.009 mmol, 29% yield) as a white solid. MS found: (M+H)+=452. 1H-NMR (400 MHz, CHLOROFORM-d) δ ppm 8.16 (s, 1 H) 7.79 (s, 1 H) 7.69 (dd, J=8.90, 4.83 Hz, 2 H) 7.60 (d, J=9.10 Hz, 1 H) 7.52 (dd, J=9.10, 1.70 Hz, 1 H) 7.21-7.31 (m, 3 H) 6.91 (d, J=4.07 Hz, 1 H) 5.56 (t, J=6.00 Hz, 1 H) 3.28 (d, J=6.10 Hz, 2 H) 1.52 (s, 6 H) 0.96 (s, 6 H).

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,3-trimethylbutan-1-amine | 0.031 mmol, 10 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(CN)(C)C)(C)C | C20H24FN3
reactant | phenyl thiazol-2-ylcarbamate | 0.068 mmol, 15 mg | S1C(=NC=C1)NC(OC1=CC=CC=C1)=O | C10H8N2O2S
reactant | diisopropylethylamine | 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 0.1 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2,2,3-trimethylbutyl)-3-(thiazol-2-yl)urea | 0.009 mmol, 4 mg, 29% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(CNC(=O)NC=1SC=CN1)(C)C)(C)C | C24H26FN5OS
